US07674901B2
The invention provides a process for preparation of imatinib base and pharmaceutically acceptable acid addition salts thereof, comprising (a) reacting 2-methyl-5-nitroaniline with cyanamide in the presence of hydrochloric acid to obtain 1-(2-methyl-5-nitrophenyl)guanidine hydrochloride; (b) converting 1-(2-methyl-5-nitrophenyl)guanidine hydrochloride to 1-(2-methyl-5-nitrophenyl)guanidine nitrate; (c) condensing 3-acetylpyridine with N,N-dimethylformamide dimethyl acetal to obtain 3-(dimethylamino)-1-(3-pyridinyl)-prop-2-en-1-one; (d) reacting 3-(dimethylamino)-1-(3-pyridinyl)-prop-2-en-1-one with 1-(2-methyl-5-nitrophenyl)guanidine nitrate to obtain N-(5-nitro-2-methylphenyl)-4-(3-pyridinyl)-2-pyrimidineamine; (e) reducing N-(5-nitro-2-methylphenyl)-4-(3-pyridinyl)-2-pyrimidineamine using hydrazine in the presence of Raney nickel to obtain N-(5-amino-2-methylphenyl)-4-(3-pyridinyl)-2-pyrimidine-amine; (f) condensing N-(5-amino-2-methylphenyl)-4-(3-pyridinyl)-2-pyrimidine-amine with 4-chloromethylbenzoyl chloride in the presence of an inorganic base to obtain 4-chloromethyl-N-(4-methyl-3-(4-(pyridin-3-yl)pyrimidin-2-ylamino)phenyl)benzamide; (g) condensing 4-chloromethyl-N-(4-methyl-3-(4-(pyridin-3-yl)pyrimidin-2-ylamino)phenyl)benzamide with an excess of N-methylpiperazine to obtain imatinib base; adding water or a mixture of water and an organic solvent; and isolating said imatinib base; and (h) optionally, converting imatinib base to a pharmaceutically acceptable acid addition salt of imatinib base.

reactant | N-(5-amino-2-methylphenyl)-4-(3-pyridinyl)-2-pyrimidine-amine | NC=1C=CC(=C(C1)NC1=NC=CC(=N1)C=1C=NC=CC1)C | C16H15N5
reactant | 4-chloromethylbenzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
product | 4-chloromethyl-N-(4-methyl-3-(4-(pyridin-3-yl)pyrimidin-2-ylamino)phenyl)benzamide | ClCC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC(=N2)C=2C=NC=CC2)C=C1 | C24H20ClN5O
